US07122571B2
4-Fluorobenzaldehyde-4-sulfamylphenylhydrazone
A solution of 4-fluorobenzaldehyde (5 mmol) and 4-sulfamyl-phenylhydrazine hydrochloride was subjected to the General Procedure. The title compound, melting point 205–206° C., was obtained in 58% yield.

reactant | 4-fluorobenzaldehyde | 5 mmol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-sulfamyl-phenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-Fluorobenzaldehyde-4-sulfamylphenylhydrazone | 58% yield | S(N)(=O)(=O)C1=CC=C(C=C1)NN=CC1=CC=C(C=C1)F | C13H12FN3O2S
